US08957068B2
To a mixture of 4-phenyl-1,8-dioxa-3-azaspiro[4.5]decan-2-one (300 mg, 1.286 mmol) and 2,4-dichloropyrimidine (192 mg, 1.286 mmol) in DMF (7 mL) under argon was added NaH (60% wt., 67.9 mg, 2.83 mmol) in two portions. The mixture was stirred for ˜1 hour. The reaction mixture was carefully poured into ice-coiled 0.25N aqueous HCl solution. DCM and aqueous NaHCO3 solution were added. The separated aqueous layer was extracted with DCM (3×) and ethyl acetate (1×). The organic layers (DCM and ethyl acetate containing layers independently) were washed with brine, dried over Na2SO4 and filtered off. The organic layers were combined and concentrated under reduced pressure providing crude 3-(2-chloropyrimidin-4-yl)-4-phenyl-1,8-dioxa-3-azaspiro[4.5]decan-2-one (330 mg) as a yellowish liquid, which was directly used in the next reaction without further purification. LCMS m/z 346.1 (M+H)+, Rt 0.83 min.

reactant | 4-phenyl-1,8-dioxa-3-azaspiro[4.5]decan-2-one | 1.286 mmol, 300 mg | C1(=CC=CC=C1)C1NC(OC12CCOCC2)=O | C13H15NO3
reactant | 2,4-dichloropyrimidine | 1.286 mmol, 192 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | NaH | 2.83 mmol, 67.9 mg | [H-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-(2-chloropyrimidin-4-yl)-4-phenyl-1,8-dioxa-3-azaspiro[4.5]decan-2-one | 330 mg | ClC1=NC=CC(=N1)N1C(OC2(C1C1=CC=CC=C1)CCOCC2)=O | C17H16ClN3O3
